US07018988B2
(2S,4EZ)-N-benzyl-1-(diphenylacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and benzylamine the title compound was obtained in 82% purity by LC/MS. MS(ESI+): m/z=442.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | (2S,4EZ)-N-benzyl-1-(diphenylacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)NC(=O)[C@H]1N(CC(C1)=NOC)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H27N3O3
